US07795436B2
cis-3-Benzyl-6-bromo-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one
A mixture of methyl 1-benzyl-3-(3-bromophenyl)piperidine-4-carboxylate (3.7 g, 9.5 mmol) and polyphosphoric acid (37 g) was heated at 180° C. for 3 h then cooled to 0.20° C. To the reaction mixture H2O and saturated NH4Cl aqueous solution were added, successively then extracted with CH2Cl2. The combined organic solution was dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel column (Hex/EtOAc 9/1) to obtain the title compound (631 mg, 1.8 mmol) MS (ES) 356.1 (M+H) along with the regio-isomer example 2 as the less polar fraction.

reactant | methyl 1-benzyl-3-(3-bromophenyl)piperidine-4-carboxylate | 9.5 mmol, 3.7 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OC)C1=CC(=CC=C1)Br | C20H22BrNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | H2O | O | H2O
product | cis-3-Benzyl-6-bromo-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 1.8 mmol, 631 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=CC=C(C=C3[C@H]2C1)Br)=O | C19H18BrNO
